US04435566
A mixture of 6.5 g of 2-chloro-4-morpholino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine and 15 ml of N-methylpiperazine was heated at a bath temperature of 70° to 80° C. for 3 hours. After cooling, the reaction solution was extracted with chloroform, and the extract was washed with water and dried. The solvent was distilled off and the resulting crystals were recrystallized from a mixture of dichloromethane-n-hexane to obtain 5.5 g (69% yield) of 2-(N-methylpiperazino)-4-morpholino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine as colorless needles having a melting point of 100° C.

reactant | 2-chloro-4-morpholino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 6.5 g | ClC=1N=C(C2=C(N1)CCCS2)N2CCOCC2 | C11H14ClN3OS
reactant | N-methylpiperazine | 15 ml | CN1CCNCC1 | C5H12N2
product | 2-(N-methylpiperazino)-4-morpholino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 5.5 g, 69% yield | CN1CCN(CC1)C=1N=C(C2=C(N1)CCCS2)N2CCOCC2 | C16H25N5OS
